US06586617B1
2-Nitroaniline (2.15 g (15.6 mmol)) was dissolved in 10.0 ml of pyridine. To this, p-toluenesulfonyl chloride (3.55 g (18.6 mmol)) was added with stirring at room temperature. After stirring for 15 hours at room temperature, water (100 ml) was added to the reaction mixture to bring about separation of crystals. The crystals were filtered, washed with water, dried and then subjected to silica gel column chromatography with ethyl acetate-hexane (2:3) as eluent to give 2.88 g (53%) of 2′-nitro-p-toluenesulfonanilide as yellow crystals, and 1.17 g (17%) of N,N-bis(p-toluenesulfonyl)-2′-nitroaniline (Compound No. 39) as pale yellow crystals. Physical Constants of 2′-nitro-p-toluenesulfonanilide

reactant | 2-Nitroaniline | 15.6 mmol, 2.15 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | p-toluenesulfonyl chloride | 18.6 mmol, 3.55 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 100 ml | O | H2O
solvent | pyridine | 10.0 ml | N1=CC=CC=C1 | C5H5N
product | 2′-nitro-p-toluenesulfonanilide | 2.88 g, 53% | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C13H12N2O4S
